US07687502B2
[2-({4-[(1-Methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)-3-(trifluoromethyl)phenyl]methanol
The compound of Example 142 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2-fluoro-3-(trifluoromethyl)-benzenemethanol, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 2-fluoro-3-(trifluoromethyl)-benzenemethanol | FC1=C(C=CC=C1C(F)(F)F)CO | C8H6F4O
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [2-({4-[(1-Methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)-3-(trifluoromethyl)phenyl]methanol | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)OC1=C(C=CC=C1C(F)(F)F)CO | C20H16F3N5O2
